US08445493B2
1-Benzyl-4-(6-(4-fluorophenyl)-4,5-dimethylpyridazin-3-yl)-3-methylpiperazin-2-one
Treat a 0° C. solution of (R)—N-benzyl-2-chloro-N-(2-(6-(4-fluorophenyl)-4,5-dimethylpyridazin-3-ylamino)ethyl)propanamide (4.59 g, 10.4 mmol) in THF (104 mL) with NaH (60%, 625 mg, 15.6 mmol). Allow the reaction mixture to warm to ambient temperature and stir overnight. Cool the reaction to 0° C., and treat with additional NaH (60%, 208 mg, 5.20 mmol). Allow the reaction mixture to warm to ambient temperature and stir for 3 d. Partition the reaction mixture between brine and EtOAc. Separate the organic layer, dry over Na2SO4, filter, and concentrate under reduced pressure. Purify the residue by flash silica gel chromatography (gradient of 0 to 2% 2 M NH3/MeOH in CH2Cl2) to provide the title compound as a white foam (3.64 g, 86%). ES/MS m/z 405.2 (M+1).

reactant | (R)—N-benzyl-2-chloro-N-(2-(6-(4-fluorophenyl)-4,5-dimethylpyridazin-3-ylamino)ethyl)propanamide | 10.4 mmol, 4.59 g | C(C1=CC=CC=C1)N(C([C@@H](C)Cl)=O)CCNC=1N=NC(=C(C1C)C)C1=CC=C(C=C1)F | C24H26ClFN4O
reactant | NaH | 15.6 mmol, 625 mg | [H-].[Na+]
reactant | NaH | 5.20 mmol, 208 mg | [H-].[Na+]
solvent | THF | 104 mL | C1CCOC1 | C4H8O
product | 1-Benzyl-4-(6-(4-fluorophenyl)-4,5-dimethylpyridazin-3-yl)-3-methylpiperazin-2-one | 3.64 g, 86% | C(C1=CC=CC=C1)N1C(C(N(CC1)C=1N=NC(=C(C1C)C)C1=CC=C(C=C1)F)C)=O | C24H25FN4O
